US06653330B2
In the same manner as that described in Example 1(1), a reaction was carried out using commercially available p-aminoacetophenone (309 mg, 2.3 mmol), triethylamine (0.48 ml, 3.4 mmol), and 4-formylbenzoyl chloride (500 mg, 3.0 mmol) and the reaction mixture was treated according to a similar procedure to that described in Example 1(1) to afford a crystalline residue which was recrystallized from a mixture of tetrahydrofuran and hexane to give 4′-acetyl-4-formylbenzanilide (552. mg, yield 90%) as pale yellow powdery crystals.

reactant | p-aminoacetophenone | 2.3 mmol, 309 mg | NC1=CC=C(C=C1)C(C)=O | C8H9NO
reactant | triethylamine | 3.4 mmol, 0.48 ml | C(C)N(CC)CC | C6H15N
reactant | 4-formylbenzoyl chloride | 3.0 mmol, 500 mg | C(=O)C1=CC=C(C(=O)Cl)C=C1 | C8H5ClO2
product | 4′-acetyl-4-formylbenzanilide | yield 90% | C(C)(=O)C1=CC=C(NC(C2=CC=C(C=C2)C=O)=O)C=C1 | C16H13NO3
